US07612114B2
3-[3-Fluoro-4-(2-piperidin-1-ylethoxy)phenylamino]-4-(4-hydroxyphenylethynyl)phenol
Synthesized from 5-methoxy-2-[2-(4-methoxyphenyl)vinyl]phenylamine and 1-[2-(4-bromo-2-fluorophenoxy)ethyl]piperidine according to an analogous synthetic method to Example 116, [3-fluoro-4-(2-piperidin-1-ylethoxy)phenyl][5-methoxy-2-(4-methoxyphenylethynyl)phenyl]amine (124 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (66 mg).

reactant | 5-methoxy-2-[2-(4-methoxyphenyl)vinyl]phenylamine | COC=1C=CC(=C(C1)N)C=CC1=CC=C(C=C1)OC | C16H17NO2
reactant | 1-[2-(4-bromo-2-fluorophenoxy)ethyl]piperidine | BrC1=CC(=C(OCCN2CCCCC2)C=C1)F | C13H17BrFNO
reactant | [3-fluoro-4-(2-piperidin-1-ylethoxy)phenyl][5-methoxy-2-(4-methoxyphenylethynyl)phenyl]amine | 124 mg | FC=1C=C(C=CC1OCCN1CCCCC1)NC1=C(C=CC(=C1)OC)C#CC1=CC=C(C=C1)OC | C29H31FN2O3
product | 3-[3-Fluoro-4-(2-piperidin-1-ylethoxy)phenylamino]-4-(4-hydroxyphenylethynyl)phenol | 66 mg | FC=1C=C(C=CC1OCCN1CCCCC1)NC=1C=C(C=CC1C#CC1=CC=C(C=C1)O)O | C27H27FN2O3
